US04126628
N6 -Stearoyl-L-lysine (ε-N-Octadecanoyl-L-lysine)
The title compound was prepared similarly as shown in example 3 from L-lysine monohydrochloride (0.94 g, 5.1 mmol) and succinimidyl stearate (1.94 g, 5.1 mmol) in the presence of triethylamine (2.15 ml, 15.3 mmol) in 9.4 ml of water and 9.4 ml of acetone. The product was washed with cold water and ethanol and then dried yielding 1.98 g (92.7%) of the title compound. Infrared: 1580-1590 cm-1 (ionized carboxyl group), 1635 and 1520-1535 cm-1 (amide bands).

reactant | L-lysine monohydrochloride | 5.1 mmol, 0.94 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | succinimidyl stearate | 5.1 mmol, 1.94 g | C(CCCCCCCCCCCCCCCCC)(=O)ON1C(CCC1=O)=O | C22H39NO4
reactant | triethylamine | 15.3 mmol, 2.15 ml | C(C)N(CC)CC | C6H15N
solvent | water | 9.4 ml | O | H2O
solvent | acetone | 9.4 ml | CC(=O)C | C3H6O
product | N6 -Stearoyl-L-lysine | 1.98 g, 92.7% | C(CCCCCCCCCCCCCCCCC)(=O)NCCCC[C@H](N)C(=O)O | C24H48N2O3
